US05387710
To an ice-cooled suspension of potassium tert-butoxide (0.82 g) in tetrahydrofuran (6.6 ml) was added trimethylsulfonium iodide (98% purity; 1.5 g) in dimethyl sulfoxide (6.6 ml). After the addition was complete, piperonal (1.0 g) in tetrahydrofuran (3.3 ml) was added dropwise to the mixture while the internal temperature was maintained below 5° C. After stirring at ambient temperature for 1 hour, the mixture was poured into water and extracted once with ethyl acetate. The extract was washed twice with water and once with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to give 3,4-methylenedioxyphenyloxirane (1.0 g), which was used for next reaction without further purification.

reactant | potassium tert-butoxide | 0.82 g | CC(C)([O-])C.[K+]
reactant | trimethylsulfonium iodide | [I-].C[S+](C)C
reactant | piperonal | 1.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 6.6 ml | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 6.6 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 3.3 ml | O1CCCC1 | C4H8O
product | 3,4-methylenedioxyphenyloxirane | 1.0 g | C1OC=2C=C(C=CC2O1)C1OC1 | C9H8O3
